US05066695
47.0 g of 2-hydroxy-4-methoxybenzophenone and 27.7 g of picolinic acid hydrazide are stirred in 150 ml of N-methylpyrrolidone for 18 hours at 140° C. After the reaction mixture has cooled to room temperature, the brownish yellow solution is treated with 200 ml of water. The precipitate produced is isolated by filtration and washed with isopropanol and then with water. After the product has been dried under vacuum at 50°-60° C., 57.4 g of 2-hydroxy-4-methoxybenzophenone picolinoylhydrazone are obtained.

reactant | 2-hydroxy-4-methoxybenzophenone | 47.0 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C14H12O3
reactant | picolinic acid hydrazide | 27.7 g | N1=C(C=CC=C1)C(=O)NN | C6H7N3O
reactant | water | 200 ml | O | H2O
solvent | N-methylpyrrolidone | 150 ml | CN1C(CCC1)=O | C5H9NO
product | 2-hydroxy-4-methoxybenzophenone picolinoylhydrazone | 57.4 g | N1=C(C=CC=C1)C(=O)NN=C(C1=C(C=C(C=C1)OC)O)C1=CC=CC=C1 | C20H17N3O3
